US04597902
N'-[2-(Diethylamino)ethyl]-N-(1-methylethyl)-N-[5-(phenylsulfonyl)pentyl]urea hydrate[1:0.5]
A solution of 1,1'-carbonyldiimidazole (4.54 g, 0.028 mole) and N,N-diethylethylenediamine (2.90 g, 0.025 mole) in tetrahydrofuran was stirred for 1 hr at room temperature. A solution of N-(1-methylethyl)-5-(phenylsulfonyl)-1-pentanamine (6.74 g, 0.025 mole) in tetrahydrofuran (dried over 4 A molecular sieves) was added and the resulting solution was heated over night at gentle reflux. The reaction mixture was stripped to dryness and the residue dissolved in chloroform. The chloroform layer was extracted with water, dried (anhydrous sodium sulfate), filtered and the solvent removed to give a brown oil. The brown oil was subjected to flash column chromatography on Silica Gel using methanol for elution. Fractions of similar purity were combined, solvent removed, and the oil dried in vacuo at 60° C. overnight. This produced 7.00 g (66.6% yield) of brown oil. 1H NMR (CDCl3), δ7.8 (m, 5, aromatic), 5.2 (b, 1, NH), 4.2 (m, 1, methine), 3.2 (m, 6, methylenes next to SO2 and amide), 2.5 (m, 7, 1/2 H2O and methylenes next to amine), 1.6 (m, 6, methylenes between SO2 and amide), 1.1 (m, 12, CH3).

reactant | 1,1'-carbonyldiimidazole | 0.028 mole, 4.54 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-diethylethylenediamine | 0.025 mole, 2.90 g | C(C)N(CCN)CC | C6H16N2
reactant | N-(1-methylethyl)-5-(phenylsulfonyl)-1-pentanamine | 0.025 mole, 6.74 g | CC(C)NCCCCCS(=O)(=O)C1=CC=CC=C1 | C14H23NO2S
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N'-[2-(Diethylamino)ethyl]-N-(1-methylethyl)-N-[5-(phenylsulfonyl)pentyl]urea hydrate | 7.00 g, 66.6% yield | O.C(C)N(CCNC(N(CCCCCS(=O)(=O)C1=CC=CC=C1)C(C)C)=O)CC | InChI=1S/C21H37N3O3S.H2O/c1-5-23(6-2)17-15-22-21(25)24(19(3)4)16-11-8-12-18-28(26,27)20-13-9-7-10-14-20;/h7,9-10,13-14,19H,5-6,8,11-12,15-18H2,1-4H3,(H,22,25);1H2
